Free Documents
*SPICE Netlist generated by Advanced Sim server on 2005-3-24 13:30:30

*Schematic Netlist:
C1 NetC1_1 UO 0.1uF
C2 0 NetC2_2 0.1uF
C3 NetC3_1 NetC3_2 10uF
C4 NetC4_1 NetC4_2 20uF
C5 NetC5_1 UO 20uF
Ce2 NetCe2_1 0 47uF
Q1 NetC4_1 NetC3_1 NetC3_1 NPN
Q2 NetC5_1 NetC4_2 NetCe2_1 NPN
R1 NetC2_2 NetC1_1 1.6K
R2 0 NetC2_2 1.6K
RF NetC3_1 UO 1.95E+3
Rb NetC3_1 EC 270K
Rb2 NetC4_2 EC 20K
Rb3 0 NetC4_2 10K
Rc1 NetC4_1 EC 2K
Rc2 NetC5_1 EC 2K
Re1 0 NetC3_1 1K
Re2 0 NetCe2_1 1K
RS1 NetC2_2 NetC3_2 1

.SAVE 0 EC NetC1_1 NetC2_2 NetC3_1 NetC3_2 NetC4_1 NetC4_2 NetC5_1 NetCe2_1 UO
.SAVE @C1[i] @C2[i] @C3[i] @C4[i] @C5[i] @Ce2[i] @Q1[ib] @Q1[ic] @Q1[ie] @Q2[ib]
.SAVE @Q2[ic] @Q2[ie] @R1[i] @R2[i] @Rb[i] @Rb2[i] @Rb3[i] @Rc1[i] @Rc2[i] @Re1[i]
.SAVE @Re2[i] @RF[i] @RS1[i] @C1[p] @C2[p] @C3[p] @C4[p] @C5[p] @Ce2[p] @Q1[p] @Q2[p]
.SAVE @R1[p] @R2[p] @Rb[p] @Rb2[p] @Rb3[p] @Rc1[p] @Rc2[p] @Re1[p] @Re2[p] @RF[p]
.SAVE @RS1[p]

*PLOT TRAN -1 1 A=EC
*PLOT OP -1 1 A=EC

*Selected Circuit Analyses:
.TRAN 2E-8 5E-6 0 2E-8
.OP

*Models and Subcircuit:
.MODEL CAP C()

.MODEL NPN NPN()

.END